US07691792B1
Dehydrosqualene prepared above was placed in a one liter Parr pressure reactor and 1.1 g of 5% Pd/C was added. The vessel was sealed and evacuated under house vacuum for twenty minutes (ca. 20 ton) and then pressurized with hydrogen gas up to 950 psi. The reaction is initially exothermic. After the initial exothermic stage of the reaction was complete the reaction temperature was maintained at 40° C. by external heating and later at 60° C. Hydrogen gas was added as needed to maintain the reaction rate. After 47 hours the reaction was judged complete by GCMS analysis so the crude reaction product was filtered through a silica gel pad 3 inches in diameter×3 inches high and the silica gel was washed with 550 mL 5% ethyl acetate in hexanes. After removal of the solvent by rotary evaporation the crude squalane weighed 332.6 g. The product was distilled in 3 batches using a Kugelrohr bulb to bulb apparatus to give 282.4 g squalane (83.4% yield over both steps).

reactant | Dehydrosqualene | CC(=CCC/C(=C/CC/C(=C/C=C\C=C(\CC/C=C(/CCC=C(C)C)\C)/C)/C)/C)C | C30H48
catalyst | Pd/C | 1.1 g | [Pd] | Pd
product | squalane | 282.4 g, 83.4% yield | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
